data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_421645_0,[C:1]([O:5][C:2]([C:3]([O:6][H:10])([H:14])[H:15])([N:4]([H:12])[H:13])[H:11])([O:7][H:9])=[O:8]>>[C:1]1([O:7][H:9])([O:8][H:10])[O:5][C:2]([N:4]([H:12])[H:13])([H:11])[C:3]([H:14])([H:15])[O:6]1,46.01645749995868
MR_350681_1,[C:1]([C:2]([C:3]([O:7][H:12])([O:8][H:13])[O:9][H:11])([N:4]([H:15])[H:16])[H:14])([O:5][H:10])=[O:6]>>[C:1]([C:2]([C:3]([O:8][H:13])=[O:9])([N:4]([H:15])[H:16])[H:14])([O:5][H:10])([O:6][H:11])[O:7][H:12],34.600350000032165
MR_163326_0,[C@@:1]([C:2](=[O:7])[H:10])([O:3][N:5][O:6])([O:4][H:8])[H:9]>>[C@:1]([O:3][C:2](=[O:7])[H:10])([O:4][H:8])([N:5]=[O:6])[H:9],56.06712500001535
MR_486393_1,[C:1](=[C:2]([N:3]([H:11])[H:12])/[N:8]=[C:5](/[N:4]([H:13])[H:14])[H:15])([O:6][H:10])[O:7][H:9]>>[C:1]1([O:6][H:10])([O:7][H:9])[C:2]([N:3]([H:11])[H:12])=[N:8][C:5]1([N:4]([H:13])[H:14])[H:15],37.46802499999717
MR_278927_1,[C:1]([N:3]([N:5]([H:10])[H:11])[H:9])(/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[O:6][H:8])([H:12])[H:13]>>[C:1](=[C:4]([C:2]([H:14])([H:15])[H:16])[N:7]([N:3]([N:5]([H:10])[H:11])[H:9])[O:6][H:8])([H:12])[H:13],62.28502249997547
MR_440670_0,[C:1](=[C:3]([C:2]([N:5]([H:12])[H:13])([O:6][H:8])[O:7][H:9])[N:4]([H:10])[H:11])([H:14])[H:15]>>[C:1]([C:3](=[C:2]([O:6][H:8])[O:7][H:9])[N:4]([H:10])[H:11])([N:5]([H:12])[H:13])([H:14])[H:15],70.46448500001247
MR_275621_0,[C:1](/[C:5]([N:4]([N:3]([O:7][H:8])[H:9])[H:10])=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:5](=[N:4]\[H:10])[C@@:6]([C:2]([H:15])([H:16])[H:17])([N:3]([O:7][H:8])[H:9])[H:11])([H:12])([H:13])[H:14],50.51688749997467
MR_73449_0,[C:1]1([C:3]([H:15])([H:16])[H:17])([H:11])[N:5]([C:2]([H:12])([H:13])[H:14])[O:8][C:7]([C:4]([H:18])([H:19])[H:20])=[C:6]1[O:9][H:10]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:6](/[C:7]1([C:4]([H:18])([H:19])[H:20])[N:5]([C:2]([H:12])([H:13])[H:14])[O:8]1)[O:9][H:10])[H:11],62.30698499999136
MR_46701_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([H:9])[N:5]([C:2]([H:10])([H:11])[H:12])[O:7][C:6]([C:4]([H:16])([H:17])[H:18])=[N:8]1>>[C:1](\[C:3]([H:13])([H:14])[H:15])(=[N:8]/[C:6]1([C:4]([H:16])([H:17])[H:18])[N:5]([C:2]([H:10])([H:11])[H:12])[O:7]1)[H:9],67.91055999996871
MR_102420_0,[C:1](/[C:2](=[C:5](/[N:4]([H:11])[H:12])[H:13])[O:6][H:8])([N:3]([H:9])[H:10])=[O:7]>>[C:1]1([N:3]([H:9])[H:10])=[C:2]([O:6][H:8])[C:5]([N:4]([H:11])[H:12])([H:13])[O:7]1,50.48112000002931
MR_314167_1,[C:1]([C:3](=[C:6]([H:16])[H:17])[O:7][C:2]([H:13])([H:14])[H:15])([N:4]([H:9])[H:11])([N:5]([H:10])[H:12])[H:8]>>[C:1]([C:3](=[C:6]([H:16])[H:17])[H:8])([N:4]([H:9])[H:11])([N:5]([H:10])[H:12])[O:7][C:2]([H:13])([H:14])[H:15],64.51955000000524
MR_145627_0,[C:1]([C:3](=[C:4]([H:13])[H:14])[O:6][H:7])([O:5][C:2]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:1](=[C:3]([C:4]([O:5][C:2]([H:10])([H:11])[H:12])([H:13])[H:14])[O:6][H:7])([H:8])[H:9],67.21026999998898
MR_241797_0,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:3]([N:5]([H:8])[H:9])[N:6]=[O:7])([H:10])([H:11])[H:15]>>[C:1]([C:4]1([C:2]([H:12])([H:13])[H:14])[C:3]([N:5]([H:8])[H:9])=[N:6][O:7]1)([H:10])([H:11])[H:15],37.93300249996463
MR_331037_1,[C:1]([N:3]([O:5][H:8])[O:6][H:7])([N:4]([C:2]([H:12])([H:13])[H:14])[H:9])([H:10])[H:11]>>[C:1]([N:3]([N:4]([C:2]([H:12])([H:13])[H:14])[H:9])[O:6][H:7])([O:5][H:8])([H:10])[H:11],73.15332250003664
MR_351056_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([N:4]([H:8])[H:9])[O:5][O:6][H:7]>>[C@:1]([C:3]([H:10])([H:14])[H:15])([N:4]([H:8])[H:9])([O:5][C:2]([H:11])([H:12])[H:13])[O:6][H:7],50.09960000002948
MR_137060_1,[C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:6])[H:8])([N:5]=[C:4]([H:12])[H:13])[H:7]>>[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([N:5]=[C:4]([H:12])[H:13])=[O:6])([H:7])[H:8],71.16728499998587
MR_414149_1,[C:1]([C:2]([C:3]([H:15])([H:17])[H:18])([C:4]([H:16])([H:19])[H:20])[H:11])(/[C:5]([N:6]([H:12])[H:13])=[N:8]/[H:14])([O:7][H:9])[H:10]>>[C:1]1([O:7][H:9])([H:10])[C:5]([C:2]([C:3]([H:15])([H:17])[H:18])([C:4]([H:16])([H:19])[H:20])[H:11])([N:6]([H:12])[H:13])[N:8]1[H:14],40.65258750001817
MR_225614_0,[C:1]([C:2](/[C:4](=[C:3](/[O:6][H:7])[H:8])[H:9])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:2]1=[C:4]([H:9])[C@:3]([O:6][H:7])([H:8])[C:5]1([H:13])[H:14])([H:10])([H:11])[H:12],38.10117249996807
MR_286860_2,[C:1]1([C:6](=[O:8])[H:14])([H:9])[C:2]([H:12])([H:13])[C:4](=[O:7])[N:3]1[N:5]([H:10])[H:11]>>[C:1]1([N:3]([N:5]([H:10])[H:11])[C:6](=[O:8])[H:14])([H:9])[C:2]([H:12])([H:13])[C:4]1=[O:7],72.06021750001426
MR_691887_0,[C:1]1([H:12])([H:13])[C:2]([N:4]([H:8])[H:9])=[C:3]([N:5]([H:10])[H:11])[C:6]([H:14])=[C:7]1[H:15]>>[C:1]1([H:12])([H:13])[C@@:2]2([N:4]([H:8])[H:9])[C:3]([N:5]([H:10])[H:11])=[C:6]([H:14])[C@@:7]12[H:15],71.09888749998021
MR_393790_0,[C:1]([N:2]([H:9])[H:10])([O:5]/[C:3](=[C:4](/[O:6][H:8])[H:12])[H:11])=[O:7]>>[C:1]([N:2]([H:9])[H:10])([C@:4]([C:3](=[O:5])[H:11])([O:6][H:8])[H:12])=[O:7],63.34549749997322
